US04778912
2-Dimethylcarbamoyloxy-3-octadecyloxypropyl 10-trimethylammoniodecyl phosphate
In accordance with Example 7, 2.49 g of 2-dimethylcarbamoyloxy-3-octadecyloxypropanol, 3.17 g of 10-bromodecyl chlorophosphate and trimethylamine were used for reaction and purification to give 2.55 g (yield: 61.3%) of the desired product.

reactant | 2-dimethylcarbamoyloxy-3-octadecyloxypropanol | 2.49 g | CN(C(=O)OC(CO)COCCCCCCCCCCCCCCCCCC)C | C24H49NO4
reactant | 10-bromodecyl chlorophosphate | 3.17 g | P(=O)(OCCCCCCCCCCBr)([O-])Cl
reactant | trimethylamine | CN(C)C | C3H9N
product | 2-Dimethylcarbamoyloxy-3-octadecyloxypropyl 10-trimethylammoniodecyl phosphate | 2.55 g, yield: 61.3% | P(=O)(OCC(COCCCCCCCCCCCCCCCCCC)OC(N(C)C)=O)(OCCCCCCCCCC[N+](C)(C)C)[O-] | C37H77N2O7P
